US07977354B2
Stage C: 5-methoxy-3-quinolinethiol.
To a solution of 3-(methylsulfinyl)-5-methoxyquinoline (2.21 g, 10 mmol) in CH2Cl2 (50 mL) is added TFAA. The resulting solution is stirred at 20-50° C. for 1 hour. The solution is then treated with NEt3 affording the title compound.

reactant | 3-(methylsulfinyl)-5-methoxyquinoline | 10 mmol, 2.21 g | CS(=O)C=1C=NC2=CC=CC(=C2C1)OC | C11H11NO2S
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | NEt3 | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-3-quinolinethiol | COC1=C2C=C(C=NC2=CC=C1)S | C10H9NOS
